US06528525B1
3-[4-[2-(biphenyl-4-carbonylamino)ethoxy]phenyl]-2-(4-fluorophenoxy)propionic acid (exemplification No. 138-51 compound)
In a similar manner to that described in Example 2, methyl 3-[4-[2-(biphenyl-4-carbonylamino)ethoxy]phenyl]-2-(4-fluorophenoxy)propionate (266 mg), which is the product of Example 146, was reacted with aqueous sodium hydroxide solution (1N, 1.04 ml) and the reaction mixture was treated to give the title compound (241 mg) as colorless crystals.

reactant | methyl 3-[4-[2-(biphenyl-4-carbonylamino)ethoxy]phenyl]-2-(4-fluorophenoxy)propionate | 266 mg | C1(=CC=C(C=C1)C(=O)NCCOC1=CC=C(C=C1)CC(C(=O)OC)OC1=CC=C(C=C1)F)C1=CC=CC=C1 | C31H28FNO5
reactant | sodium hydroxide | 1N, 1.04 ml | [OH-].[Na+]
product | 3-[4-[2-(biphenyl-4-carbonylamino)ethoxy]phenyl]-2-(4-fluorophenoxy)propionic acid | 241 mg | C1(=CC=C(C=C1)C(=O)NCCOC1=CC=C(C=C1)CC(C(=O)O)OC1=CC=C(C=C1)F)C1=CC=CC=C1 | C30H26FNO5
